US04362740
In 200 ml of water was dissolved 4.45 g of dipotassium salt of 5-nitrothiosalicylic acid, and 3.55 g of α-bromo-γ-butyrolactone was added dropwise to the solution under ice-cooling with stirring. After stirring the solution at room temperature for 3.5 hours, 10 ml of concentrated hydrochloric acid was added to the solution to acidify, and the solution was subjected to extraction with ethyl acetate. The extract was washed with water, dried and evaporated to dryness under reduced pressure, resulting in α-[(2-carboxy-4-nitrophenyl)thio]-γ-butyrolactone. The crude product was dissolved in 50 ml of acetic anhydride and 10 ml of triethylamine, and heated under a stream of nitrogen at 130° C. for 30 minutes. The reaction solution was evaporated to dryness under reduced pressure, and the residue was chromatographed on a column of activated carbon and silica gel. Recrystallization from ethanol of the resultant crude crystals yielded pale yellow needles of 5-nitro-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2' -dione. Melting point: 190.5°-193.5° C.

reactant | 5-nitrothiosalicylic acid | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)S | C7H5NO4S
reactant | α-bromo-γ-butyrolactone | 3.55 g | BrC1C(=O)OCC1 | C4H5BrO2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 5-nitro-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2' -dione | [N+](=O)([O-])C1=CC2=C(SC3(C(OCC3)=O)C2=O)C=C1 | C11H7NO5S
